US07078405B2
5-Chloro-3-(2,4-dichlorophenyl)-2-pyrazinamine
3-(2,4-Dichlorophenyl)-2-pyrazinamine (1.43 g, 6.0 mmol) was dissolved in chloroform (9 mL), N-chlorosuccinimide (0.96 g, 7.2 mmol) was added thereto, and the mixture was stirred by heating under reflux for 4 hours. After being allowed to cool, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:2) to give the title compound (1.54 g) as yellow crystals.

reactant | 3-(2,4-Dichlorophenyl)-2-pyrazinamine | 6.0 mmol, 1.43 g | ClC1=C(C=CC(=C1)Cl)C=1C(=NC=CN1)N | C10H7Cl2N3
reactant | N-chlorosuccinimide | 7.2 mmol, 0.96 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | chloroform | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-3-(2,4-dichlorophenyl)-2-pyrazinamine | 1.54 g | ClC=1N=C(C(=NC1)N)C1=C(C=C(C=C1)Cl)Cl | C10H6Cl3N3
